* C:\sandbox\spicelib\examples\testfiles\Noise.asc
* Generated by LTspice 26.0.1 for Windows.
V1 in 0 10V
R1 out in 1k
C1 out 0 1µ
.noise V(out) V1 oct 10 1m 10Meg
.backanno
.end
