*************
*REVISION 2 18-MAR-2002
*REDUCED INTERACTION OF SLEW RATE WITH CHANGING SUPPLY.
*SYM=PA85
* BEGIN OPAMP MACROMODEL PA98
* PINOUT ORDER +IN -IN CL OUT +V -V COMP COMP
*                1   2  3  33  4  5   6    7
.SUBCKT PA98 1 2 3 33 4 5 6 7
M1 10 1 8 8 MI1
M2 11 2 9 9 MI2
R3 12 8 2.20E+02
R4 12 9 2.20E+02
I2 12 5 7.47E-03
C1 12 5 1.04E-12
R5 12 5 5.35E+06
R1 4 10 3.20E+02
R2 4 11 3.20E+02
C2 10 11 6.22E-11
I1 4 5 1.06E-02
G1 6 15 11 10 3.13E-03
G2 6 15 12 15 9.89E-09
R6 6 15 1.00E+05
D1 6 34 DD
D7 34 15 DD
D2 35 6 DD
D8 15 35 DD
C3 6 7 5.00E-12
G3 15 7 15 6 4.52E-01
R7 7 15 1E3
D3 7 16 DD
V1 18 16 8.70E+00
D4 17 7 DD
V2 17 19 8.70E+00
RE1 15 0 0.001
E2 18 0 4 0 1
E3 19 0 5 0 1
R8 7 20 50
C4 20 15 9.36E-12
Q3 19 20 21 QOP
Q4 18 20 22 QON
Q5 4 21 29 QON
Q6 5 22 29 QOP
Q7 25 27 33 QLN
Q8 26 28 33 QLP
D5 21 25 DL
D6 26 22 DL
R9 27 3 1E3
R10 28 3 1E3
I3 18 21 1.89E-03
I4 22 19 1.89E-03
R15 29 3 2.22E+01
DC1 29 4 DO
DC2 5 29 DO
.MODEL DO D(CJO=10PF IS=2.10E-15 RS=1.43E+00)
.MODEL DD D(CJO=0.1PF IS=1E-17)
.MODEL DL D(CJO=3PF IS=1E-13)
.MODEL MI1 NMOS (KP=1.00E-02 IS=3E-16 VTO=1)
.MODEL MI2 NMOS (KP=1.00E-02 IS=3E-16 VTO=0.9950)
.MODEL QOP PNP (BF=1.11E+02 IS=1E-14)
.MODEL QON NPN (BF=1.11E+02 IS=1E-14)
.MODEL QLN NPN (BF=100 IS=1E-14)
.MODEL QLP PNP (BF=100 IS=1E-14)
* END OF OPAMP MACROMODEL
.ENDS
***********
