* C:\sandbox\spicelib\examples\testfiles\QSPICE_Batch_Test.qsch
V1 +V 0 15
V2 -V 0 -15
V3 IN 0 SINE 0 1 {freq}
Ã†U1 +V -V OUT N01 IN ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ RRopAmp Avol=100K GBW=5Meg Slew=5Meg Rload=2K Phi=60
R1 0 N01 10K
R2 N01 OUT 10K
.meas TRAN Vin_rms RMS V(IN)
.tran 1m
.meas TRAN Vout_rms RMS V(OUT)
.meas TRAN gain PARAM Vout_rms/Vin_rms
.param freq=10K
.end
