* C:\sandbox\spicelib\examples\testfiles\QSPICE_TRAN - STEP.qsch
V1 in 0 PWL 0 0 10n {Vin}
R1 in out {R1}
C1 out 0 1µ
.param R1=1K
.param Vin=2
.step param Vin list 1 10
.step param R1 list 1K 10K
.tran 5m
.meas t1 find V(out) at 1m
.meas t2 find V(out) at 2m
.meas t3 find V(out) at 3m
.meas t4 find V(out) at 4m
.meas t5 find V(out) at 5m
.end
