* C:\sandbox\PyLTSpice_dev\examples\testfiles\TRAN - STEP.asc
Vin in 0 PWL(0 0 10n {Vin})
R1 in out {R1}
C1 out 0 1µ
.tran 5m
.step param Vin list 1 10
.param Vin=2
.param R1=1k
.step param R1 list 1k 10k
.meas TRAN t1 FIND V(out) AT 1m
.meas TRAN t2 FIND V(out) AT 2m
.meas TRAN t3 FIND V(out) AT 3m
.meas TRAN t4 FIND V(out) AT 4m
.meas TRAN t5 FIND V(out) AT 5m
.backanno
.end
