* DC directive
V1 R 0 10
R1 R 0 1000

.option savecurrents
.control
 save all
 set wr_vecnames

* Compute DC 0-5V, 1V steps
 dc V1 0 5 1

 remzerovec
 * Write the binary file.
 set filetype = binary
 write dc_c_ngspice.bin.raw
 * Set the file type to ascii
 set filetype = ascii   
 * Write the ascii file.
 write dc_c_ngspice.ascii.raw
 * Enable appendwrite. All subsequent writes will be appended at the end of the file instead of overwriting the existing files.
 set appendwrite 
.endc

.end