** sch_path: /home/simon/code/LowNoiseCsa/IHP/Schematics/plots_ex.sch
**.subckt plots_ex
V6 VDD GND volt
R1 VDD GND 1k m=1
**** begin user architecture code




.option savecurrents
.param volt=3
.control
 save all
 set wr_vecnames

* Loop over the following code setting the variable volt to different values
 foreach volt 1 2 3
 
   * Changes the parameter volt to the value of the variable volt To add confunsion two different things have the same name here.
   alterparam volt = $volt
   * New parameters are only applied after a reset.
   reset
   * Compute the operating point
   op
   remzerovec
   * Write the binary file.
   set filetype = binary
   write op_multi_ngspice.bin.raw
   * Set the file type to ascii
   set filetype = ascii   
   * Write the ascii file.
   write op_multi_ngspice.ascii.raw
   * Enable appendwrite. All subsequent writes will be appended at the end of the file instead of overwriting the existing files.
   set appendwrite
 end
.endc


**** end user architecture code
**.ends
.GLOBAL GND
.GLOBAL VDD
.end
