* opamptest.asc
V1 +V 0 15
V2 -V 0 -15
V3 in 0 PWL(1u 0 +2n 1 +1m 1 +2n 0 +1m 0 +2n -1 +1m -1 +2n 0) AC 1 Rser=3 Cpar=4
XU1 in out1 +V -V out2 level2 Avol=2Meg GBW=10Meg Slew=10Meg Ilimit=35m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=501Meg
XU2 in out2 +V -V out4 AD549
;.ac dec 10 200 15e6
.tran 4u
.lib ADI1.lib
.lib UniversalOpAmp2.lib
.backanno
.end
