spice
.options ksparse
V1 1 0 PWL 0 0 1 1
R1 1 2 1
R2 2 0 1
M1 2 1 0 0 PMOS
.model PMOS PMOS (W=1.5u L=1u)
.TRAN 0 1
.OPTIONS OUTPUT initial_interval=0.1
.sens objfunc={V(2)} param=R2:R
.print TRANADJOINT FORMAT=CSV V(1) R1:R R2:R
.options SENSITIVITY STDOUTPUT=1 adjoint=1 direct=0
+ adjointTimePoints=0.25,0.5,0.75
.PRINT TRAN R1:R R2:R V(1) V(2)
.end
