* Simple non-functional KiCad circuit with named nets, 
.title KiCad schematic
.param rval=20k
.subckt OPAMP_IDEAL 1 2 3 4 5
E1 5 0 1 2 100k
.ends OPAMP_IDEAL
XU1 /sub/Vin_p /Vin_n VCC VEE /Vout OPAMP_IDEAL
R1 /sub/Vin_p 0 10k
R2 /Vin_n /Vout {rval}
V1 VCC 0 DC 15
V2 VEE 0 DC -15
.control
op
print v(/Vout)
.endc
.end
