* C:\sandbox\spicelib_dev\examples\testfiles\Qspice_top.qsch
V1 N04 0 PWL 0 0 1m 5
R1 N01 0 10K
V2 N02 0 5
X2 N04 N03 N02 0 N01 sub_circuit2
V3 N03 0 1

.subckt sub_circuit2 INP INN VDD VSS OUT
R1 INN N01 10K
R2 INP N02 10K
R3 VSS N02 22K
R4 OUT N01 22K
Ã1 N03 VSS OUT N01 N02 ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ ¥ RRopAmp Avol=100K GBW=5Meg Slew=5Meg Rload=2K Phi=60
D1 VSS N03 MM3Z5V1T1G
R5 VDD N03 220
.lib C:\PROGRA~1\QSPICE\Zener.txt
.ends sub_circuit2

.tran 1m
.end
